### PR TITLE
[Merged by Bors] - feat(Algebra/FreeMonoid): free monoids over isomorphic types are isomorphic

### PR DESCRIPTION
**Pull request by hannahfechtner**
Free monoids over isomorphic types are isomorphic. Also, converting a relation on free monoid α to free monoids over β, when α and β are isomorphic

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 1]
```diff
@@ -407,4 +407,31 @@ theorem length_reverse {a : FreeMonoid α} : a.reverse.length = a.length :=
...
+section IsomorphicTypes
+
+variable {α β : Type*} (e : α ≃ β)
+
+/-- free monoids over isomorphic types are isomorphic -/
+@[to_additive "if two types are isomorphic, the additive free monoids over those types are
+isomorphic"]
+def congr_iso : FreeMonoid α ≃* FreeMonoid β :=
+  MulEquiv.mk' ⟨FreeMonoid.map e.toFun, FreeMonoid.map e.invFun, fun x => by simp [map_map],
+    fun x => by simp [map_map]⟩ (by simp [map_mul])
```
Comment (IvanRenison) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:419]: Maybe you can add this theorems and use them in the proof:
```lean
theorem map_infFun_map_toFun_eq {x : FreeMonoid α} : (map e.invFun) (map e.toFun x) = x := sorry
theorem map_toFun_map_invFun_eq {x : FreeMonoid β} : (map e.toFun) (map e.invFun x) = x := sorry
```

Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: good idea, thanks!

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 2]
```diff
@@ -407,4 +415,31 @@ theorem length_reverse {a : FreeMonoid α} : a.reverse.length = a.length :=
...
 end Reverse
 
+section IsomorphicTypes
+
+variable {α β : Type*} (e : α ≃ β)
+
+/-- free monoids over isomorphic types are isomorphic -/
+@[to_additive "if two types are isomorphic, the additive free monoids over those types are
+isomorphic"]
+def congr_iso : FreeMonoid α ≃* FreeMonoid β :=
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:425]: We use "iso" for the category-theoretic notion, and "equiv" for rest.
```suggestion
def congrEquiv : FreeMonoid α ≃* FreeMonoid β :=
```

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 3]
```diff
@@ -407,4 +415,31 @@ theorem length_reverse {a : FreeMonoid α} : a.reverse.length = a.length :=
...
+  MulEquiv.mk' ⟨FreeMonoid.map e.toFun, FreeMonoid.map e.invFun, fun _ => map_invFun_map_toFun_eq e,
+    fun _ => map_toFun_map_invFun_eq e⟩ (by simp [map_mul])
+
+/-- given an isomorphism between α and β, convert a relation predicate on FreeMonoid α to
+have an underlying type of β -/
+@[to_additive "given an isomorphism between α and β, convert a relation predicate to
+have an underlying type of β"]
+def map_rel (rel : FreeMonoid α → FreeMonoid α → Prop) : FreeMonoid β → FreeMonoid β  → Prop :=
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:433]:
```suggestion
def mapRel (rel : FreeMonoid α → FreeMonoid α → Prop) : FreeMonoid β → FreeMonoid β  → Prop :=
```

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 4]
```diff
@@ -407,4 +415,31 @@ theorem length_reverse {a : FreeMonoid α} : a.reverse.length = a.length :=
...
+  fun a b ↦ rel (.congr_iso e.symm a) (.congr_iso e.symm b)
+
+/-- given an isomorphism between α and β, pull back a relation predicate with underlying type β to
+one with underlying type α -/
+@[to_additive "given an isomorphism between α and β, pull back a relation predicate with underlying
+type β to one with underlying type α "]
+def comap_rel (rel : FreeMonoid β → FreeMonoid β → Prop) : FreeMonoid α → FreeMonoid α → Prop :=
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:440]:
```suggestion
def comapRel (rel : FreeMonoid β → FreeMonoid β → Prop) : FreeMonoid α → FreeMonoid α → Prop :=
```
Could you please generalize this to a function `f : \a \to \b` using `FreeMonoid.map`? Because you don't need an equiv between α and β for this definition; a function is enough.

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 5]
```diff
@@ -350,6 +350,14 @@ theorem map_comp (g : β → γ) (f : α → β) : map (g ∘ f) = (map g).comp
 @[to_additive (attr := simp)]
 theorem map_id : map (@id α) = MonoidHom.id (FreeMonoid α) := hom_eq fun _ ↦ rfl
 
+@[to_additive]
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:353]:
```suggestion
@[to_additive (attr := simp)]
```

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 6]
```diff
@@ -350,6 +350,14 @@ theorem map_comp (g : β → γ) (f : α → β) : map (g ∘ f) = (map g).comp
...
+theorem map_invFun_map_toFun_eq {x : FreeMonoid α} (e : α ≃ β) :
+    (map e.invFun) (map e.toFun x) = x := by simp [map_map]
+
+@[to_additive]
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:357]:
```suggestion
@[to_additive (attr := simp)]
```

**Review by jcommelin — COMMENTED** [review]
One rule of thumb when adding definitions to mathlib is that they should be accompanied by lemmas that provide the basic API.

Typically, such lemmas could be tagged with `@[simp]` if they are simplifying a left-hand side to a right-hand side.

In this case, it would be good to have lemmas about how your definitions interact with generators of the free monoid, etc...

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 3 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean:433]: got it, thanks!

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 2 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: got it, thanks!

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 4 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: oy, you're totally right. fixed!

**Comment by hannahfechtner** [comment]
> One rule of thumb when adding definitions to mathlib is that they should be accompanied by lemmas that provide the basic API.
> 
> Typically, such lemmas could be tagged with `@[simp]` if they are simplifying a left-hand side to a right-hand side.
> 
> In this case, it would be good to have lemmas about how your definitions interact with generators of the free monoid, etc...

Makes total sense! I've added in congrEquiv_one, congrEquiv_of, and congrEquiv_mul. Sorry to be a bother, but is there anything else I should add? (I promise to keep it in mind for future PRs!)

**Comment by adomani** [comment]
The CI error is likely caused by a change in the script that handles the PR summary.  If you merge current master and push to GitHub, the error should resolve itself.

**Comment by hannahfechtner** [comment]
> The CI error is likely caused by a change in the script that handles the PR summary. If you merge current master and push to GitHub, the error should resolve itself.

aha! thank you so much, I was terribly confused

**Comment by jcommelin** [comment]
@hannahfechtner It seems that you accidentally force-pushed the code of another branch.

Hopefully you can still find the correct commit in your `git ref-log`.

**Comment by hannahfechtner** [comment]
> @hannahfechtner It seems that you accidentally force-pushed the code of another branch.
> 
> Hopefully you can still find the correct commit in your `git ref-log`.

Yup. I had resigned myself to just re-doing it, but `git reflog` worked perfectly!

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 7]
```diff
@@ -415,4 +423,41 @@ theorem length_reverse {a : FreeMonoid α} : a.reverse.length = a.length :=
...
+
+/-- free monoids over isomorphic types are isomorphic -/
+@[to_additive "if two types are isomorphic, the additive free monoids over those types are
+isomorphic"]
+def congrEquiv (e : α ≃ β) : FreeMonoid α ≃* FreeMonoid β :=
+  MulEquiv.mk' ⟨FreeMonoid.map e.toFun, FreeMonoid.map e.invFun, fun _ => map_invFun_map_toFun_eq e,
+    fun _ => map_toFun_map_invFun_eq e⟩ (by simp [map_mul])
+
+@[to_additive (attr := simp)]
+theorem congrEquiv_one (e : α ≃ β) : congrEquiv e (1) = 1 := rfl
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:438]: Because `congrEquiv` is a `MulEquiv`, this lemma is in fact a bit superfluous. `(congrEquiv e).map_one` already gives it.

Sorry for the yoyo effect, but could you please drop this one, and the `_mul` lemma?

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 8]
```diff
@@ -415,4 +423,41 @@ theorem length_reverse {a : FreeMonoid α} : a.reverse.length = a.length :=
...
+
+@[to_additive (attr := simp)]
+theorem congrEquiv_of (e : α ≃ β) (a : α) : congrEquiv e (of a) = of (e.toFun a) := rfl
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:441]: This is a useful lemma. Just a minor nitpick on the spelling.
```suggestion
theorem congrEquiv_of (e : α ≃ β) (a : α) : congrEquiv e (of a) = of (e a) := rfl
```
Can you please also add `congrEquiv_symm_of`?

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 9]
```diff
@@ -358,6 +358,14 @@ theorem map_comp (g : β → γ) (f : α → β) : map (g ∘ f) = (map g).comp
 @[to_additive (attr := simp)]
 theorem map_id : map (@id α) = MonoidHom.id (FreeMonoid α) := hom_eq fun _ ↦ rfl
 
+@[to_additive (attr := simp)]
+theorem map_invFun_map_toFun_eq {x : FreeMonoid α} (e : α ≃ β) :
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:362]:
```suggestion
theorem map_symm_map_apply_eq {x : FreeMonoid α} (e : α ≃ β) :
```

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 10]
```diff
@@ -358,6 +358,14 @@ theorem map_comp (g : β → γ) (f : α → β) : map (g ∘ f) = (map g).comp
...
+    (map ⇑e.symm) ((map ⇑e) x) = x := by simp [map_map]
+
+@[to_additive (attr := simp)]
+theorem map_toFun_map_invFun_eq {x : FreeMonoid β} (e : α ≃ β) :
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:366]:
```suggestion
theorem map_apply_map_symm_eq {x : FreeMonoid β} (e : α ≃ β) :
```

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 11]
```diff
@@ -415,4 +423,41 @@ theorem length_reverse {a : FreeMonoid α} : a.reverse.length = a.length :=
...
+
+@[to_additive (attr := simp)]
+theorem congrEquiv_mul (e : α ≃ β) (a b : FreeMonoid α) : congrEquiv e (a * b) = congrEquiv e a *
+    congrEquiv e b := by rw [map_mul]
+
+/-- given a function from β to α, convert a relation predicate on FreeMonoid α to
+have an underlying type of β -/
+@[to_additive "given a function from β to α, convert a relation predicate to
+have an underlying type of β"]
+def mapRel (f : β → α)(rel : FreeMonoid α → FreeMonoid α → Prop) : FreeMonoid β → FreeMonoid β  →
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:451]: For these next two definitions, could you please add `_iff` lemmas that state how they interact with generators?
```suggestion
def mapRel (f : β → α) (rel : FreeMonoid α → FreeMonoid α → Prop) : FreeMonoid β → FreeMonoid β  →
```

Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean:447]: I'm sorry, I can't quite figure out what you mean. I don't see how I could apply this to the FreeMonoid generators (it is entirely possible that none of the relations holds between elements of length one - for example, in the braid monoid), and there aren't generators for `f` or `rel`

If you could give me a hint, I'd be happy to add this :)

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 8 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: done!

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 7 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: sure thing!

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 9 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: changed!

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 10 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: changed!

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 12]
```diff
@@ -415,4 +423,37 @@ theorem length_reverse {a : FreeMonoid α} : a.reverse.length = a.length :=
...
+/-- given a function from β to α, convert a relation predicate on FreeMonoid α to
+have an underlying type of β -/
+@[to_additive "given a function from β to α, convert a relation predicate to
+have an underlying type of β"]
+def mapRel (f : β → α) (rel : FreeMonoid α → FreeMonoid α → Prop) : FreeMonoid β → FreeMonoid β  →
+    Prop := fun a b ↦ rel (.map f a) (.map f b)
+
+/-- given a function from α to β, convert a relation predicate with underlying type β to
+one with underlying type α -/
+@[to_additive "given afunction from α to β, convert a relation predicate with underlying
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:452]:
```suggestion
@[to_additive "given a function from α to β, convert a relation predicate with underlying
```

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 13]
```diff
@@ -415,4 +423,37 @@ theorem length_reverse {a : FreeMonoid α} : a.reverse.length = a.length :=
...
+theorem congrEquiv_of (e : α ≃ β) (a : α) : congrEquiv e (of a) = of (e a) := rfl
+
+@[to_additive (attr := simp)]
+theorem congrEquiv_symm_of (e : α ≃ β) (b : β) : congrEquiv e.symm (of b) = of (e.symm b) := rfl
+
+/-- given a function from β to α, convert a relation predicate on FreeMonoid α to
+have an underlying type of β -/
+@[to_additive "given a function from β to α, convert a relation predicate to
+have an underlying type of β"]
+def mapRel (f : β → α) (rel : FreeMonoid α → FreeMonoid α → Prop) : FreeMonoid β → FreeMonoid β  →
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:447]: `mapRel` and `comapRel` are now identical (up to renaming of arguments).
My suspicion is that you will only need `comapRel`. But if you think it is useful, you can restore the version of `mapRel` that takes an equiv as argument.

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 14]
```diff
@@ -415,4 +423,37 @@ theorem length_reverse {a : FreeMonoid α} : a.reverse.length = a.length :=
...
 
+section IsomorphicTypes
+
+variable {α β : Type*}
+
+/-- free monoids over isomorphic types are isomorphic -/
+@[to_additive "if two types are isomorphic, the additive free monoids over those types are
+isomorphic"]
+def congrEquiv (e : α ≃ β) : FreeMonoid α ≃* FreeMonoid β :=
+  MulEquiv.mk' ⟨FreeMonoid.map e.toFun, FreeMonoid.map e.invFun, fun _ => map_symm_apply_map_eq e,
```
Comment (jcommelin) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:434]:
```suggestion
  MulEquiv.mk' ⟨FreeMonoid.map ⇑e, FreeMonoid.map ⇑e.symm, fun _ => map_symm_apply_map_eq e,
```

Comment (urkud) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:434]: Why not use `where toFun := FreeMonoid.map e` etc? I think that it's more readable. Also, `MulEquiv.mk'` is the same as `MulEquiv.mk`.

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 13 above)
Comment (urkud) [reply Mathlib/Algebra/FreeMonoid/Basic.lean:447]: This is just `rel on (map f)`. Do we need a separate `def` for it?

File: Mathlib/Algebra/FreeMonoid/Basic.lean [hunk 15]
```diff
@@ -415,4 +423,37 @@ theorem length_reverse {a : FreeMonoid α} : a.reverse.length = a.length :=
...
 end Reverse
 
+section IsomorphicTypes
+
+variable {α β : Type*}
+
+/-- free monoids over isomorphic types are isomorphic -/
+@[to_additive "if two types are isomorphic, the additive free monoids over those types are
+isomorphic"]
+def congrEquiv (e : α ≃ β) : FreeMonoid α ≃* FreeMonoid β :=
```
Comment (urkud) [inline Mathlib/Algebra/FreeMonoid/Basic.lean:433]: Free groups call it `FreeGroup.freeGroupCongr`, quotient groups use `QuotientGroup.congr`. Basic types use `MulEquiv.prodCongr` etc. I would stick to one of the existing naming schemes (also, we should unify them some day).

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 14 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: indeed it is! thanks

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 15 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: done!

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 13 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: Oh nice, I didn't know about that! I've removed this definition; I can use `rel on (map f)` for my purposes then

File: Mathlib/Algebra/FreeMonoid/Basic.lean (hunk 11 above)
Comment (hannahfechtner) [reply Mathlib/Algebra/FreeMonoid/Basic.lean]: this is deleted per Yury's suggestion :)

**Comment by kim-em** [comment]
bors merge

**Comment by bryangingechen** [comment]
Please merge master, fix the build, and then put this back on the queue. Thanks!
bors d+
